Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.59007906773
[O:1]=[C:2]([H:3])/[C:4]=[C:5]1/[O:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9],0.4655307194699999
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8],5.43294373449
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],3.39090490227
[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[H:14].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.2923871114399998
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.39807257424
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3],5.70379854952
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.56520187329
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.98663672968
[C:1]([H:4])#[C:5][H:6].[C:2](#[C:3])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.53161385221
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.76809948847
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],0.349489765758
[C:1]#[C:2].[C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-6.120901149040001
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5],6.655785094780001
[H:1][C:2]#[C:3][C:6](=[C:7][H:8])[O:9][H:10].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10],-3.00876165085
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.29931028465
[H:1][O:2][C:3]#[C:4][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-2.9123439444800003
[H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.456923916469999
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.45302831114
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.98967201862
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.81315728115
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[H:1][C:2]#[C:3][H:4],-0.16951628307
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],6.72038445093
[C:2]#[C:3][C@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.97860327597
[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:5][H:6],5.374344186980001
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.61609230505
[O:1]=[C:2][C:4]([H:3])([H:8])[H:9].[O:5]=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-3.0368358004400005
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1],3.92342052122
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9](=[O:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9](=[O:10])[H:11],1.24130678552
